US07625908B2
N-{(2R)-2-[(4-{[3-Methyl-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}acetamide
The procedure described in Example 3 was repeated using 2-(chloromethyl)pyridine and N-[(2R)-2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)propyl]acetamide to give the title compound as a white solid in 43% yield; NMR spectrum (DMSO-d6) 1.41 (d, 3H), 1.77 (s, 3H), 2.27 (s, 3H), 3.41 (dt, 1H), 3.58 (dt, 1H), 4.87 (m, 1H), 5.20 (s, 2H), 7.01 (d, 1H), 7.22 (d, 1H), 7.29 (d, 1H), 7.35 (dd, 1H), 7.55 (m, 2H), 7.58 (dd, 1H), 7.69 (t, 1H), 7.85 (td, 1H), 8.23 (t, 1H), 8.45 (s, 1H), 8.58 (d, 1H), 9.97 (s, 1H); Mass spectrum MH+ 458.

reactant | 2-(chloromethyl)pyridine | ClCC1=NC=CC=C1 | C6H6ClN
reactant | N-[(2R)-2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)propyl]acetamide | OC1=C(C=C(C=C1)NC1=NC=NC2=CC=CC(=C12)O[C@@H](CNC(C)=O)C)C | C20H22N4O3
product | N-{(2R)-2-[(4-{[3-Methyl-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}acetamide | 43% yield | CC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)O[C@@H](CNC(C)=O)C | C26H27N5O3
